US04157399
3-acetamido-2-phenyl-benzo(b)thiophene.
67.0 g (0.265 mol) of 3-formamido-2-phenyl-benzo(b)thiophene and 700 milliliters of HCl at 25% are refluxed with stirring for 8 hours. After cooling, it is diluted with water, neutralised by ammonia and the product is dissolved in CH2Cl2. By evaporating the organic phase dried over K2CO3, 58.7 g (98% of theory) of 2-phenyl-3-amino-benzo-(b)thiophene are obtained; yellow plates melting between 110° and 112° C. (cyclohexane).

reactant | 3-formamido-2-phenyl-benzo(b)thiophene | 0.265 mol, 67.0 g | C(=O)NC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2 | C15H11NOS
reactant | HCl | 700 milliliters | Cl | ClH
reactant | ammonia | N | H3N
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-acetamido-2-phenyl-benzo(b)thiophene | C(C)(=O)NC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2 | C16H13NOS
